US05102892
A mixture of 2 5 g (=7.2 mmol) of 2-hydroxymethyl-8-methoxy-4-(2-methylbenzylamino)quinoline hydrochloride, 5.3 ml of thionyl chloride and 2 drops of DMF was stirred at room temperature for 90 minutes. The mixture was poured onto ice, made alkaline with 1 N NaOH and extracted with ethyl acetate. The crude product after the organic phase had been dried with Na2SO4 and the solvent had been stripped off was converted into the hydrochloride with methanolic hydrochloric acid. 2.48 g of 2-chloromethyl-8-methoxy-4-(2-methylbenzylamino)quinoline hydrochloride were obtained.

reactant | 2-hydroxymethyl-8-methoxy-4-(2-methylbenzylamino)quinoline hydrochloride | Cl.OCC1=NC2=C(C=CC=C2C(=C1)NCC1=C(C=CC=C1)C)OC
reactant | thionyl chloride | 5.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | 1 N | [OH-].[Na+]
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 2-chloromethyl-8-methoxy-4-(2-methylbenzylamino)quinoline hydrochloride | 2.48 g | Cl.ClCC1=NC2=C(C=CC=C2C(=C1)NCC1=C(C=CC=C1)C)OC | InChI=1S/C19H19ClN2O.ClH/c1-13-6-3-4-7-14(13)12-21-17-10-15(11-20)22-19-16(17)8-5-9-18(19)23-2;/h3-10H,11-12H2,1-2H3,(H,21,22);1H
